US06653471B2
To a mixture of {(3-tert-Butoxycarbonylamino-propionyl)-[2-(4-nitro-phenyl)-ethyl]-amino}-acetic acid tert-butyl ester (2.5 mmol) in 11 mL THF is 22 mL water added, followed by NaOH (17.5 mmol). After heating at 60° C. for 5½ hours it is quenched with acetic acid (20 mmol). It is placed in the refrigerator for 2% days. The THF is evaporated off, and the remaining water is extracted several times with EtOAc. The organic layers are combined, dried over Na2SO4 and evaporated in vacuo yielding {(3-tert-Butoxycarbonylamino-propionyl)-[2-(4-nitro-phenyl)-ethyl]-amino}-acetic acid, 983 mg, as a dark yellow/brown oil/foam (99%): 1H NMR (CD3OD) 1.40 (d, 9H), 2.44-2.45 (m, 2H), [2.98, 3.03](t, 2H), 3.22-3.30 (m, 2H), [3.60, 3.65](t, 2H), 4.06 (s, 2H), [7.52, 7.54](d, 2h), 8.16 (t, 2H); LRMS calcd 395.42, found [M−H] 394.0.

reactant | {(3-tert-Butoxycarbonylamino-propionyl)-[2-(4-nitro-phenyl)-ethyl]-amino}-acetic acid tert-butyl ester | 2.5 mmol | C(C)(C)(C)OC(CN(CCC1=CC=C(C=C1)[N+](=O)[O-])C(CCNC(=O)OC(C)(C)C)=O)=O | C22H33N3O7
reactant | water | 22 mL | O | H2O
reactant | NaOH | 17.5 mmol | [OH-].[Na+]
reactant | acetic acid | 20 mmol | C(C)(=O)O | C2H4O2
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | {(3-tert-Butoxycarbonylamino-propionyl)-[2-(4-nitro-phenyl)-ethyl]-amino}-acetic acid | C(C)(C)(C)OC(=O)NCCC(=O)N(CCC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)O | C18H25N3O7
